US09303007B2
TBAF (7.27 mL of 1.0 M in THF, 7.27 mmol) was added dropwise over 5 min to a THF (30 mL) solution of (3S)-tert-butyl 3-((tert-butyldiphenylsilyloxy)methyl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (mixture of cis/trans-isomers) (3.13 g, 6.93 mmol) and the mixture was stirred at ambient temperature for 4.75 h. After the addition of saturated NH4Cl solution (5 mL), most of the volatile material was removed in vacuo and the residue partitioned between CH2Cl2 (70 mL) and 50% saturated NH4Cl solution (30 mL). The aqueous phase was extracted with CH2Cl2 (30 mL) and the combined organic phase was dried (MgSO4), filtered, concentrated in vacuo and then exposed to high vacuum overnight. The crude material was purified using a flash chromatography (silica gel; 40-50% EtOAc/hexanes) to afford (3S)-tert-butyl 3-(hydroxymethyl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (1.39 g, 94% yield) as a mixture of cis/trans-isomers and a colorless oil. [Note: the exact cis/trans-isomer ratio was not determined at this stage.] LC-MS (M+Na)+=236.20. 1H NMR (400 MHz, DMSO-d6, δ=2.5 ppm) δ ppm 4.70 (t, J=5.7, 1H), 3.62-3.56 (m, 1H), 3.49-3.44 (m, 1H), 3.33-3.27 (m, 1H), 3.08-3.04 (m, 1H), 2.07 (br m, 1H), 1.93-1.87 (m, 1H), 1.51-1.44 (m, 1H), 1.40 (s, 9H), 0.76-0.71 (m, 1H), 0.26 (m, 1H).

reactant | TBAF | 7.27 mmol, 1.0 M, 7.27 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (3S)-tert-butyl 3-((tert-butyldiphenylsilyloxy)methyl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 6.93 mmol, 3.13 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H]1N(C2CC2C1)C(=O)OC(C)(C)C | C27H37NO3Si
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (3S)-tert-butyl 3-(hydroxymethyl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 1.39 g, 94% yield | OC[C@H]1N(C2CC2C1)C(=O)OC(C)(C)C | C11H19NO3
